US06180636B2
Analogously to the method described in stage 19.4, boiling 20.0 g (700 mmol) of 4-chloro-6-(3-nitrophenyl)-7H-pyrrolo[2,3-d]pyrimidine (prepared analogously to stages 19.1 to 19.3) with 23.1 ml (168 mmol) of (R)-phenylethylamine in 23.1 ml of n-butanol gives (R)-6-(3-nitrophenyl)-4-[(1-phenylethyl)amino]-7H-pyrrolo-[2,3-d]pyrimidine as rust-brown crystals of m.p.>250° C.; MS: M+=359.

reactant | 4-chloro-6-(3-nitrophenyl)-7H-pyrrolo[2,3-d]pyrimidine | 700 mmol, 20.0 g | ClC=1C2=C(N=CN1)NC(=C2)C2=CC(=CC=C2)[N+](=O)[O-] | C12H7ClN4O2
solvent | n-butanol | 23.1 ml | C(CCC)O | C4H10O
product | (R)-6-(3-nitrophenyl)-4-[(1-phenylethyl)amino]-7H-pyrrolo-[2,3-d]pyrimidine | [N+](=O)([O-])C=1C=C(C=CC1)C1=CC2=C(N=CN=C2N[C@H](C)C2=CC=CC=C2)N1 | C20H17N5O2
